datasets/10k__Tet_Int.csv
SMILES Labelled
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C)[S]1 10=20;20,21=21"
"[H][NH:10]C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C([H])[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(CC)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O][H].[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C1=CC=CC=C1)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1.[O-:21]C>>C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C([H])C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C)[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])[H]>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC1=CC=CC=C1)[H])[H] 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OCCCCCC)[H])([O-:21])[H]>>C1(C([O:21][C:20](O1)([O-:10])OCCCCCC)[H])[H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)[H])[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)[H])[H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21][H])([NH][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([NH][H])[NH]CC 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O:10]C(CC)C(C)C1O>>[O-:10]C(CC)C(C)C([C:20](OC)=[O:21])O 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])C>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])C.[O-:21][H] 10=20;20,21=21"
